US07067534B1
(1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL (4-FLUOROPHENYL)ACETATE:
Prepared by Procedure Q1 and Scheme C2 (TEA) using N-(3-{1-[(3S)-3-hydroxy-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and (4-fluorophenyl)acetyl chloride: Anal. Calcd for C32H37FN2O3+0.07CHCl3: C, 73.4; H, 7.12; N, 5.34. Found: C, 73.4; H, 6.96; N, 5.14; ESMS m/e: 517.1 (M+H)+.

reactant | N-(3-{1-[(3S)-3-hydroxy-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | O[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H32N2O2
reactant | (4-fluorophenyl)acetyl chloride | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
product | (1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL (4-FLUOROPHENYL)ACETATE | FC1=CC=C(C=C1)CC(=O)O[C@@H](CCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)C1=CC=CC=C1 | C32H37FN2O3
